US08198453B2
To a solution of (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (11.5 g, 38.4 mmol), imidazole (7.84 g, 115.2 mmol) and DMAP (234 mg, 1.92 mmol) in CH2Cl2 (200 mL) was added a solution of TBSCl (8.68 g, 57.6 mmol) in CH2Cl2 (100 mL) dropwise. The reaction mixture was stirred at rt for overnight. The reaction was washed with water (100 mL) and the aqueous layer was extracted with CH2Cl2 (3×100 mL), the combined organic layers was washed with brine (70 mL), then dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by column chromatography to afford (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (9 g, 57%).

reactant | (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 38.4 mmol, 11.5 g | OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C16H29NO4
reactant | imidazole | 115.2 mmol, 7.84 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 57.6 mmol, 8.68 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
catalyst | DMAP | 1.92 mmol, 234 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 9 g, 57% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C22H43NO4Si
